US08039490B2
4-(4-Fluoro-benzoyl)-piperidine-1-carboxylic acid tert-butyl ester
4-(4-fluorobenzoyl)piperidine hydrochloride (1.5 g, 6.16 mmol) was suspended in acetonitrile (30 mL) and triethylamine (0.940 mL, 6.8 mmol), dimethylaminopyridine (0.150 g, 1.2 mmol) and Di-tert.-butyl-dicarbonate (1.6 g, 7.4 mmol) were added at 0° C. and the mixture was stirred at room temperature for 3 h. The solvent was evaporated and aqueous 1M HCl was added (20 mL) and the water was extracted with ethyl acetate (100 mL). and purified with column chromatography on silica using n-heptane-EtOAc (1:1). The product fractions were concentrated to give 1.87 g (6.08 mmol, 99% yield) of a white solid. MS (m/e): 307.3 (M+H+).

reactant | 4-(4-fluorobenzoyl)piperidine hydrochloride | 6.16 mmol, 1.5 g | Cl.FC1=CC=C(C(=O)C2CCNCC2)C=C1
reactant | triethylamine | 6.8 mmol, 0.940 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 1.2 mmol, 0.150 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | Di-tert.-butyl-dicarbonate | 7.4 mmol, 1.6 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 4-(4-Fluoro-benzoyl)-piperidine-1-carboxylic acid tert-butyl ester | 6.08 mmol, 1.87 g, 99% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C1=CC=C(C=C1)F)=O | C17H22FNO3
